US08030500B2
3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenyl trifluoromethanesulfonate
3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenol (200 mg, 0.47 mmol), N-phenylbis(trifluoromethanesulphonimide) (186 mg, 0.52 mmol), potassium carbonate (197 mg, 1.42 mmol) and THF (3 mL) were added into a vial and heated in a microwave reactor at 120° C. for 10 min. The mixture was filtered and the filtrate was purified on a silica gel column eluted with 0-5% 0.1 M NH3 in MeOH in DCM to afford 75 mg (29%) of the title compound.

reactant | 3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenol | 0.47 mmol, 200 mg | NC1=NC(C2=CC(=CC(=C12)F)Cl)(C1=CC(=NC=C1)C(F)(F)F)C=1C=C(C=CC1)O | C20H12ClF4N3O
reactant | N-phenylbis(trifluoromethanesulphonimide) | 0.52 mmol, 186 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 1.42 mmol, 197 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenyl trifluoromethanesulfonate | 75 mg, 29% | FC(S(=O)(=O)OC1=CC(=CC=C1)C1(N=C(C2=C(C=C(C=C12)Cl)F)N)C1=CC(=NC=C1)C(F)(F)F)(F)F | C21H11ClF7N3O3S
